US06362341B1
N-(Toluene-4-sulfonyl)-L-proline was reacted with L-phenylalanine amide using the procedure described in Method 12 to yield N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine amide. To a solution of NaH (60% mineral oil—prewashed with THF) in THF at 0° C. was added N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine amide and the reaction was stirred at 0° C. for 45 minutes. Toluene-4-sulfonyl chloride was added and the reaction was stirred for 16 hours at room temperature. The reaction mixture was extracted with EtOAc (3×50 mL) and 0.2 N HCl (50 mL), and the combined organic layers were washed successively with sat. NaHCO3 (50 mL), and sat. NaCl (2×50 mL), dried over MgSO4, filtered, and concentrated to yield the title compound as an oil.

reactant | N-(Toluene-4-sulfonyl)-L-proline | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C | C12H15NO4S
reactant | L-phenylalanine amide | N[C@@H](CC1=CC=CC=C1)C(=O)N | C9H12N2O
product | N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine amide | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N)CCC1)C | C21H25N3O4S
